### ISSUE TITLE
AXIOM-09: Derive time_embedding_strict_mono from definition

### ISSUE THREAD

**Issue by jdlongmire** [jdlongmire/logic-realism-theory#46]
## Axiom
`time_embedding_strict_mono` (Step8_TemporalEmergence.lean:101)

## Current Form
```lean
axiom time_embedding_strict_mono : StrictMono time_embedding
```

## Status
**DERIVABLE** — follows immediately from definition

## Analysis
If `time_embedding e := (e.id : ℝ)`, then strict monotonicity follows from:
- `e₁.id < e₂.id` (given by ordering on ℕ)
- `Nat.cast_strictMono : StrictMono (Nat.cast : ℕ → ℝ)`

## Derivation Path
```lean
def time_embedding (e : ActualizationEvent) : ℝ := (e.id : ℝ)

theorem time_embedding_strict_mono : StrictMono time_embedding := by
  intro e₁ e₂ h
  simp only [time_embedding]
  exact Nat.cast_lt.mpr h
```

## Reduction
Part of Step 8 consolidation: 3 axioms → 0 axioms

## Blocked By
#45 (time_embedding definition) — trivial dependency
